US04994569
Phenyl isocyanate (1.6 g) is added at a temperature in the region of 20° C. to a solution, maintained under an argon atmosphere, o[(5RS, 6SR)-2-(4-nitrophenyl)-6-phenyl-5,6-dihydro-4H-1,3-oxazin-5-ol (4.1 g) in 1,2-dichloroethane (45 cc). The solution obtained is heated to reflux for 4 hours and then concentrated to dryness under reduced pressure (2.7 kPa). The residue is purified by chromatography on silica (0.063-0.2 mm; 100 g) contained in a column 2.5 cm in diameter [eluent: dichloromethane/methanol (97:3 by volume)], collecting 20-cc fractions. Fractions 10 to 31 are combined and concentrated to dryness under reduced pressure (2.7 kPa) at 40° C. After recrystallization in acetonitrile, (5RS, 6SR)-2-(4-nitrophenyl)-6-phenyl-5-phenylcarbamoyloxy-5,6-dihydro-4H-1,3-oxazine (1.35 g), m.p. 170° C., is obtained.

reactant | Phenyl isocyanate | 1.6 g | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | (5RS, 6SR)-2-(4-nitrophenyl)-6-phenyl-5,6-dihydro-4H-1,3-oxazin-5-ol | 4.1 g | [N+](=O)([O-])C1=CC=C(C=C1)C=1OC(C(CN1)O)C1=CC=CC=C1 | C16H14N2O4
solvent | 1,2-dichloroethane | 45 cc | ClCCCl | C2H4Cl2
product | (5RS, 6SR)-2-(4-nitrophenyl)-6-phenyl-5-phenylcarbamoyloxy-5,6-dihydro-4H-1,3-oxazine | 1.35 g | [N+](=O)([O-])C1=CC=C(C=C1)C=1OC(C(CN1)OC(NC1=CC=CC=C1)=O)C1=CC=CC=C1 | C23H19N3O5
